US04059641
(E,E) and (Z,E)-1,1-Dimethoxy-6,10,14-trimethyl-5,9,13-pentadecatrien-2-one
Following the procedure stated in Referential example 1, reaction of farnesyl bromide which had been prepared from 22 g of nerolidol with 19 g of methyl 4,4-dimethoxyacetoacetate was carried out and the reaction mixture was purified by the silica gel (200 g) column chromatography to yield 12.8 g of the desired product.

reactant | farnesyl bromide | C(C=C(C)CCC=C(C)CCC=C(C)C)Br | C15H25Br
reactant | nerolidol | 22 g | OC(C)(C=C)CCC=C(C)CCC=C(C)C | C15H26O
reactant | methyl 4,4-dimethoxyacetoacetate | 19 g | COC(C(CC(=O)OC)=O)OC | C7H12O5
product | (Z,E)-1,1-Dimethoxy-6,10,14-trimethyl-5,9,13-pentadecatrien-2-one | 12.8 g | COC(C(CC\C=C(/CC\C=C(\CCC=C(C)C)/C)\C)=O)OC | C20H34O3
